US06949542B2
(5-Ethoxy-2-{3-oxo-3-[3-(2-pyrrolidin-1-yl-pyridin-4-yl)-phenyl]-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-5-ethoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J8) (240 mg, 0.75 mmol) and 3-oxo-3-[3-(2-pyrrolidin-1-yl-pyridin-4-yl)-phenyl]-propionic acid tert-butyl ester (Example K63) (275 mg, 0.75 mmol) according to the general procedure M. Obtained as a light yellow amorphous substance (379 mg, 82%).

reactant | (2-amino-5-ethoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.75 mmol, 240 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)C(F)(F)F)N)=O | C14H19F3N2O3
reactant | 3-oxo-3-[3-(2-pyrrolidin-1-yl-pyridin-4-yl)-phenyl]-propionic acid tert-butyl ester | 0.75 mmol, 275 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=CC(=NC=C1)N1CCCC1)=O)=O | C22H26N2O3
product | (5-Ethoxy-2-{3-oxo-3-[3-(2-pyrrolidin-1-yl-pyridin-4-yl)-phenyl]-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C1=CC(=NC=C1)N1CCCC1)=O)=O)=O | C32H35F3N4O5
